US07842696B2
DIPEA (106 mg, 0.142 mL, 0.82 mmol) followed by HOBT (40.8 mg, 0.30 mmol), EDCI.HCl (131.8 mg, 0.69 mmol) and 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt (129 mg, 0.3 mmol) were added sequentially to a stirred solution of 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid lithium salt (52 mg, 0.27 mmol) in DMF (5 mL). The resulting mixture was maintained at room temperature for 6 hrs. Cold water was added and the product was extracted with ethyl acetate. The organic layer was washed with saturated brine solution, dried over sodium sulphate and concentrated. The crude residue was purified by column chromatography (using 60-120 mesh silica gel and 50% EtOAc in hexane as eluent) to afford 30 mg (22.4% yield) of 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide as a white solid, LCMS purity: 87.99%, 1H NMR: (DMSO) δ 9.2 (t, 1H), 8.1 (d, 2H), 7.9-7.72 (dd, 2H), 7.72-7.6 (m, 3H), 7.6-7.5 (t, 1H), 4.3-4.1 (dd, 2H), 3.8-3.5 (m, 4H), 3.3-3.0 (m, 4H).

reactant | DIPEA | 0.82 mmol, 0.142 mL, 106 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 0.30 mmol, 40.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.69 mmol, 131.8 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt | 0.3 mmol, 129 mg | OC(=O)C(F)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid lithium salt | 0.27 mmol, 52 mg | [Li+].C1(=CC=CC=C1)C1=NN=C(O1)C(=O)[O-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenyl-[1,3,4]oxadiazole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 30 mg, 22.4% yield | O=C(CNC(=O)C=1OC(=NN1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H20F3N5O4
